US09056859B2
Step B: 6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one
6-Vinyl-3,4-dihydro-1H-isochromen-1-one (36.0 g, 207 mmol, 1.0 eq) was added into a 500 mL round bottom flask and dissolved in dichloromethane (500 mL). The solution was cooled to 0° C., added portion wise 3-chloroperoxybenzoic acid (98.0 g, 413 mmol, 2.0 eq). The mixture was then purged with N2 and stirred at r.t. for 18 hr. To above solution was added water (100 mL). The crude product was extracted with dichloromethane. The organic phase was washed with brine (100 mL), dried over anhydrous Na2SO4, filtered, concentrated and purified by flash column chromatography (hexane/EtOAc 0-50%). The desired product was obtained. LC-MS (IE, m/z): 191.27 [M+1]+; 1H NMR (500 MHz, CDCl3, δ in ppm): 8.07 (1H, aromatic, d, J=8.1 Hz), 7.32 (1H, aromatic, d, J=8.0 Hz), 7.16 (1H, br-s, aromatic), 4.52 (2H, CH2—O—, t, J=5.7 Hz), 3.90 (1H, br-s), 3.20 (1H, m), 3.05 (2H, CH2—CH2—O—, t, J=5.7 Hz), 2.77 (1H, m).

reactant | 6-Vinyl-3,4-dihydro-1H-isochromen-1-one | 207 mmol, 36.0 g, 1.0 eq | C(=C)C=1C=C2CCOC(C2=CC1)=O | C11H10O2
reactant | 3-chloroperoxybenzoic acid | 413 mmol, 98.0 g, 2.0 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 6-(oxiran-2-yl)-3,4-dihydro-1H-isochromen-1-one | O1C(C1)C=1C=C2CCOC(C2=CC1)=O | C11H10O3
